US08242280B2
Hydroxy-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid (92 mg, 0.19 mmol) was dissolved in dichloromethane (1 mL) and oxalyl chloride (145 mg, 1.14 mmol) and DMF (10 μL) were added. The resulting solution was heated to 60° C. with stirring overnight. The mixture was concentrated and ammonium hydroxide (30% w/v in water, 1 mL) was added and the stirring was continued for 15 minutes. The mixture was neutralized to pH 7 and extracted with ethyl acetate (5 mL×5). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. To the residue was added trifluoroacetic acid (2 mL) and the resulting mixture was sonicated until the residue was completely dissolved. The volatiles were evaporated and the residue was treated with ethylene diamine (0.2 mL). The resulting mixture was directly purified by mass-triggered reverse-phase HPLC to afford 2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-acetamide as a white solid (32 mg, 45%). MS: m/z 374 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 3.86 (s, 3H), 4.95 (s, 1H), 6.09 (s, 1H), 7.11 (t, 1H), 7.21 (s, br, 1H), 7.23 (d, 1H), 7.47 (m, 4H), 7.67 (d, 2H), 7.81 (s, 1H), 8.31 (d, 1H), 8.83 (d, 1H), 8.73 (s, 1H), 13.82 (s, 1H).

reactant | Hydroxy-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid | 0.19 mmol, 92 mg | OC(C(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C27H31N3O5Si
reactant | oxalyl chloride | 1.14 mmol, 145 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 10 μL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-acetamide | 32 mg, 45% | OC(C(=O)N)C1=CC(=CC=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C22H19N3O3
